US06153650
A solution of 4-cyclopropyl-3-nitromethyl-butanoic acid ethyl ester (1.34 g, 7.27 mmol) in 50 mL of MeOH is added to 10 mL of 10% KOH/H2O at room temperature and stirred overnight. The MeOH is evaporated, and the pH of the solution is adjusted to ca. 7 by the addition of KH2PO4. The aqueous solution is extracted with EtOAc (3×100 mL), and the combined extracts are dried over Na2SO4. Evaporation of the solvents gives 1.3 g of 4-cyclopropyl-3-nitromethyl-butanoic acid as a white solid.

reactant | 4-cyclopropyl-3-nitromethyl-butanoic acid ethyl ester | 7.27 mmol, 1.34 g | C(C)OC(CC(CC1CC1)C[N+](=O)[O-])=O | C10H17NO4
reactant | KOH H2O | 10 mL | [OH-].[K+].O
solvent | MeOH | 50 mL | CO | CH4O
product | 4-cyclopropyl-3-nitromethyl-butanoic acid | 1.3 g | C1(CC1)CC(CC(=O)O)C[N+](=O)[O-] | C8H13NO4
